US05006445
To prepare compound I-24 identified above, 38.3 g of p-nitrophenylhydrazine and 33 g of phthalide were heated in acetonitrile for 3 hours at 70°-80° C. After cooling to 20° C., the solid product was stirred together with ether and then the product was collected by filtration and washed with ether to obtain 7.2 g of 1-(2'-hydroxymethylbenzoyl)-2-(p-nitrophenyl)hydrazine.

reactant | p-nitrophenylhydrazine | 38.3 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | phthalide | 33 g | C1(=O)OCC2=CC=CC=C12 | C8H6O2
reactant | ether | CCOCC | C4H10O
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-(2'-hydroxymethylbenzoyl)-2-(p-nitrophenyl)hydrazine | 7.2 g | OCC1=C(C(=O)NNC2=CC=C(C=C2)[N+](=O)[O-])C=CC=C1 | C14H13N3O4
